** sch_path: /home/tim/gits/sg13cmos5l_ocd_chipalooza/dependencies/sg13cmos5l_ocd_ip__analog_switches/xschem/analog_switch_small.sch
.subckt analog_switch_small dvdd dvss avdd in avss enable out
*.PININFO in:B out:B enable:I dvdd:B dvss:B avdd:B avss:B
XM1 in net3 out avss sg13_hv_nmos w=5u l=0.45u ng=1 m=4 mm_ok=1
XM2 out net1 in avdd sg13_hv_pmos w=5u l=0.4u ng=1 m=4 mm_ok=1
x2 net2 enable dvdd dvss sg13cmos5l_inv_4
x3 net4 net2 dvdd dvss sg13cmos5l_inv_4
x4 enable dvdd dvss sg13cmos5l_antennanp
x5[1] dvdd dvss sg13cmos5l_decap_4
x5[0] dvdd dvss sg13cmos5l_decap_4
x5 net4 net2 net3 net1 avdd avss sw_lvl_shift
.ends

* expanding   symbol:  sw_lvl_shift.sym # of pins=4
** sym_path: /home/tim/gits/sg13cmos5l_ocd_chipalooza/dependencies/sg13cmos5l_ocd_ip__analog_switches/xschem/sw_lvl_shift.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_chipalooza/dependencies/sg13cmos5l_ocd_ip__analog_switches/xschem/sw_lvl_shift.sch
.subckt sw_lvl_shift in_p in_n out outn avdd avss
*.PININFO in_n:I in_p:I out:O outn:O
XM1 net1 in_p avss avss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XM2 net1 S1_N avdd avdd sg13_hv_pmos w=0.5u l=0.5u ng=1 m=1 mm_ok=1
XM3 S1_N in_n avss avss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 mm_ok=1
XM4 S1_N net1 avdd avdd sg13_hv_pmos w=0.5u l=0.5u ng=1 m=1 mm_ok=1
XM5 outn S1_N avdd avdd sg13_hv_pmos w=2u l=0.5u ng=1 m=2 mm_ok=1
XM6 outn S1_N avss avss sg13_hv_nmos w=1u l=0.5u ng=1 m=2 mm_ok=1
XM7 out outn avdd avdd sg13_hv_pmos w=2u l=0.5u ng=1 m=2 mm_ok=1
XM8 out outn avss avss sg13_hv_nmos w=1u l=0.5u ng=1 m=2 mm_ok=1
.ends

